US05650172
To 70 ml of acetone was added 4.95 g of 5-fluoro-2'-deoxyuridine and 12 g of sodium iodide. With stirring at room temperature, thereto was added 7.19 g of chloromethyl n-heptanoate and 15 g of anhydrous potassium carbonate. After the mixture was reacted with stirring at room temperature overnight, the obtained mixture was concentrated under reduced pressure. To the concentrate was added 150 ml of ethyl acetate, and then the insoluble matter was separated by filtration. The flitrate was washed with water, saturated aqueous solution of sodium chloride and water successively, followed by concentrating. The obtained concentrate was purified by silica gel column chromatography (eluting solvent: ethyl acetate) to give 4.77 g of 3-n-heptanoyloxymethyl-2'-deoxy-5-fluorouridine in the form of colorless solid matter (yield: 61.1%). The melting point of the obtained solid matter was 104° to 106° C.

reactant | 5-fluoro-2'-deoxyuridine | 4.95 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | sodium iodide | 12 g | [I-].[Na+]
reactant | chloromethyl n-heptanoate | 7.19 g | C(CCCCCC)(=O)OCCl | C8H15ClO2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 3-n-heptanoyloxymethyl-2'-deoxy-5-fluorouridine | 4.77 g, yield: 61.1% | C(CCCCCC)(=O)OCN1C(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C(C1=O)F)=O | C17H25FN2O7
